US04092150
This compound was prepared in the manner of Example X, substituting 4,6-dichloro-2-(1-cyano-1-methylpropylamino)-5-pyrimidinecarbonitrile and cyclopropylamine for 4, 6-dichloro-2-(1-cyano-1-methylethylamino)-5-pyrimidinecarbonitrile and isopropylamine. The reaction product was recrystallized from carbon tetrachloride to give 4-chloro-2-(1-cyano-1-methylpropylamino)-6-cyclopropylamino-5-pyrimidinecarbonitrile; mp, 155°-159°.

reactant | cyclopropylamine | C1(CC1)N | C3H7N
reactant | 4, 6-dichloro-2-(1-cyano-1-methylethylamino)-5-pyrimidinecarbonitrile | ClC1=NC(=NC(=C1C#N)Cl)NC(C)(C)C#N | C9H7Cl2N5
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 4-chloro-2-(1-cyano-1-methylpropylamino)-6-cyclopropylamino-5-pyrimidinecarbonitrile | ClC1=NC(=NC(=C1C#N)NC1CC1)NC(CC)(C)C#N | C13H15ClN6
